US05492875
2,4-dichloro-5-fluorobenzonitrile
48.8 g (0.2 mol) of 5-bromo-2,4-dichlorofluorobenzene and 17.9 g (0.2 mol) of copper(I) cyanide were introduced into a 100 ml 3-neck flask fitted with a reflux condenser and blade stirrer and stirred at 150° C. for 4 hours (no reaction). The reaction suspension was heated to 200° C. and stirred for a further 4 hours at this temperature: no reaction, 0 GC area-%.

reactant | 5-bromo-2,4-dichlorofluorobenzene | 0.2 mol, 48.8 g | BrC=1C(=CC(=C(C1)F)Cl)Cl | C6H2BrCl2F
reactant | copper(I) cyanide | 0.2 mol, 17.9 g | [Cu]C#N
product | 2,4-dichloro-5-fluorobenzonitrile | ClC1=C(C#N)C=C(C(=C1)Cl)F | C7H2Cl2FN
